### PR TITLE
feat: BitVec.setWidth_eq_append

### PR DESCRIPTION
**Pull request by bollu**
This PR proves Bitwuzla's rule [`BV_ZERO_EXTEND_ELIM`](https://github.com/bitwuzla/bitwuzla/blob/6a1a768987cca77f36ebfe06f3a786348a481bbd/src/rewrite/rewrites_bv.cpp#L4021-L4033):

```lean
theorem setWidth_eq_append {v : Nat} {x : BitVec v} {w : Nat} (h : v ≤ w) :
    x.setWidth w = ((0#(w - v)) ++ x).cast (by omega) := by
```

We introduce a more general helper lemma for the above:

```lean
theorem setWidth_eq_append_extractLsb' {v : Nat} {x : BitVec v} {w : Nat} :
    x.setWidth w = ((0#(w - v)) ++ x.extractLsb' 0 (min v w)).cast (by omega)
```

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2315,6 +2315,39 @@ theorem msb_shiftLeft {x : BitVec w} {n : Nat} :
...
+    Bool.iff_and_self, decide_eq_true_eq]
+    intros hcontra
+    have : x.getLsbD i = false := getLsbD_ge x i (by omega)
+    simp [this] at hcontra
+
+/--
+A `(x : BitVec v)` set to a width `w ≥ v` equals `(w - v)` zeros, followed by `x`.
+-/
+theorem setWidth_eq_concat {v : Nat} {x : BitVec v} {w : Nat} (h : v ≤ w) :
+    x.setWidth w = ((0#(w - v)) ++ x).cast (by omega) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2339]: I am a bit confused, these both use `++` on the RHS, but one is named `append` and the other `concat`.

**Comment by bollu** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Thanks, pushed a fix!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2315,6 +2315,39 @@ theorem msb_shiftLeft {x : BitVec w} {n : Nat} :
...
 
+/--
+A `(x : BitVec v)` set to width `w` equals `(v - w)` zeros,
+followed by the low `(min v w) bits of `x`
+-/
+theorem setWidth_eq_append_extractLsb' {v : Nat} {x : BitVec v} {w : Nat} :
+    x.setWidth w = ((0#(w - v)) ++ x.extractLsb' 0 (min v w)).cast (by omega) := by
+  ext i hi
+  simp only [getElem_setWidth, getElem_cast, getElem_append]
+  by_cases hiv : i < v
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2326]:
```suggestion
  simp only [getElem_cast, getElem_append]
  by_cases hiv : i < v
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2315,6 +2315,39 @@ theorem msb_shiftLeft {x : BitVec w} {n : Nat} :
...
+
+/--
+A `(x : BitVec v)` set to a width `w ≥ v` equals `(w - v)` zeros, followed by `x`.
+-/
+theorem setWidth_eq_append {v : Nat} {x : BitVec v} {w : Nat} (h : v ≤ w) :
+    x.setWidth w = ((0#(w - v)) ++ x).cast (by omega) := by
+  rw [setWidth_eq_append_extractLsb']
+  ext i hi
+  simp only [getElem_cast, getElem_append, getElem_extractLsb', Nat.zero_add, getElem_zero,
+    dite_eq_ite, Bool.if_false_right]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2343]:
```suggestion
  simp only [getElem_cast, getElem_append]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2315,6 +2315,39 @@ theorem msb_shiftLeft {x : BitVec w} {n : Nat} :
...
+  ext i hi
+  simp only [getElem_setWidth, getElem_cast, getElem_append]
+  by_cases hiv : i < v
+  · simp [hi]
+    omega
+  · simp only [getElem_extractLsb', Nat.zero_add, getElem_zero, dite_eq_ite, Bool.if_false_right,
+    Bool.iff_and_self, decide_eq_true_eq]
+    intros hcontra
+    have : x.getLsbD i = false := getLsbD_ge x i (by omega)
+    simp [this] at hcontra
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2333]:
```suggestion
  · simp [getLsbD_ge x i (by omega)]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2315,6 +2315,39 @@ theorem msb_shiftLeft {x : BitVec w} {n : Nat} :
...
+  rw [setWidth_eq_append_extractLsb']
+  ext i hi
+  simp only [getElem_cast, getElem_append, getElem_extractLsb', Nat.zero_add, getElem_zero,
+    dite_eq_ite, Bool.if_false_right]
+  by_cases hiv : i < v
+  · simp [hiv]
+    omega
+  · simp only [hiv, ↓reduceDIte, Bool.and_eq_false_imp, decide_eq_true_eq]
+    intros hmin
+    apply getLsbD_ge x i (by omega)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2349]:
```suggestion
  · simp [hiv, getLsbD_ge x i (by omega)]
```

**Comment by bollu** [comment]
In the process of proving this, I noticed that `@[simp]` tags are missing to `{getElem,getLsb}_append`, to push `getElem` inside `append`s.  I'll send a follow-up PR making this consistent, as per my understanding of the `simp` normal form, that we push `getElem` to the leaves.

**Review by tobiasgrosser — APPROVED** [review]
This LGTM. Thank you @bollu for the quick turnaround.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -2315,6 +2315,32 @@ theorem msb_shiftLeft {x : BitVec w} {n : Nat} :
     (x <<< n).msb = x.getMsbD n := by
   simp [BitVec.msb]
 
+/--
+A `(x : BitVec v)` set to width `w` equals `(v - w)` zeros,
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2319]: @bollu should this not say `(w - v)` in the docstring instead?
